US04886877
Preparation of 3-(2-tetrahydrofuranyl)-2'-deoxy-5-trifluoromethyluridine
5.92 Grams of 2'-deoxy-5-trifluoromethyluridine was dissolved in 40 ml of dry dimethylacetamide. Thereto was added 2.23 g of triethylamine and the mixture was ice-cooled. Thereto was added dropwise a dry dimethylacetamide solution containing 2.34 g of 2-chlorotetrahydrofuran prepared just prior to use, and the mixture was stirred overnight. The reaction mixture was subjected to filtration and the resulting filtrate was subjected to evaporation. The residue was extracted with chloroform and the extract was dried with anhydrous sodium sulfate. The solvent in the extract was removed by evaporation to obtain an oily residue. The residue was treated by a silica gel column chromatography (developing solvent: chloroform/ethanol=20/1). The eluate was recrystallized from ethanol-petroleum ether to obtain 2.80 g of the desired product. Melting point: 127°-128° C.

reactant | 2'-deoxy-5-trifluoromethyluridine | FC(C=1C(NC(N([C@H]2C[C@H](O)[C@@H](CO)O2)C1)=O)=O)(F)F | C10H11F3N2O5
reactant | triethylamine | 2.23 g | C(C)N(CC)CC | C6H15N
reactant | 2-chlorotetrahydrofuran | 2.34 g | ClC1OCCC1 | C4H7ClO
reactant | chloroform ethanol | C(Cl)(Cl)Cl.C(C)O
solvent | dimethylacetamide | 40 ml | CC(=O)N(C)C | C4H9NO
product | 3-(2-tetrahydrofuranyl)-2'-deoxy-5-trifluoromethyluridine | 2.80 g | O1C(CCC1)N1C(N([C@H]2C[C@H](O)[C@@H](CO)O2)C=C(C1=O)C(F)(F)F)=O | C14H17F3N2O6
